US05089613
Into a reactor, equipped with mechanical stirrer and thermometer, chlorosulfonic acid (17.49 g) and, slowly under stirring, N-formyl-phenothiazine (7.5 g) were charged, under nitrogen at 20° C. The reaction mixture was left under stirring at 20° C. for 3 hours. The HPLC analysis showed the formation of N-formyl-phenothiazine-2-sulfonic acid (75% yield).

reactant | chlorosulfonic acid | 17.49 g | ClS(=O)(=O)O | ClHO3S
reactant | N-formyl-phenothiazine | 7.5 g | C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12 | C13H9NOS
product | N-formyl-phenothiazine-2-sulfonic acid | 75% yield | C(=O)N1C2=CC=CC=C2SC=2C=CC(=CC12)S(=O)(=O)O | C13H9NO4S2
